US07241747B2
[3-(Methoxymethoxy)propyl]triphenylphosphonium bromide (A).
To a solution of 1-bromo-3-(methoxymethoxy)propane (0.46 g, 2.5 mmol) in anhydrous toluene (1.5 mL) was added triphenylphoshine (0.71 g, 2.7 mmol) under argon with stirring. The mixture was heated at 100° C. for 20 h and cooled to room temperature. The liquid was decanted and the solid residue was grounded with spatula, filtered and washed several times with ether. After drying overnight in vacuum dessicator colorless crystals of phosphonium salt A (0.98 g, 88%) could be used in the Wittig reaction without further purification. A: 1H NMR (500 MHz, CDCl3) δ 1.96 (2H, m, CH2—CH2—CH2), 3.31 (3H, s, O—CH3), 3.85 (2H, br t, J=5.6 Hz, CH2—CH2—O), 4.00 (2H, m, P—CH2), 4.60 (2H, s, O—CH2—O), 7.70, 7.79 and 7.86 (6H, 3H and 6H, each m, Ar—H); Anal. Calcd for C23H26O2PBr: C, 62.03, H, 5.88, Br, 17.94. Found: C, 61.87, H, 5.77, Br, 17.89.

reactant | 1-bromo-3-(methoxymethoxy)propane | 2.5 mmol, 0.46 g | BrCCCOCOC | C5H11BrO2
reactant | triphenylphoshine | 2.7 mmol, 0.71 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
solvent | toluene | 1.5 mL | C1(=CC=CC=C1)C | C7H8
product | [3-(Methoxymethoxy)propyl]triphenylphosphonium bromide | [Br-].COCOCCC[P+](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1 | InChI=1S/C23H26O2P.BrH/c1-24-20-25-18-11-19-26(21-12-5-2-6-13-21,22-14-7-3-8-15-22)23-16-9-4-10-17-23;/h2-10,12-17H,11,18-20H2,1H3;1H/q+1;/p-1
